US07291616B2
(4-Bromo-phenyl)-[4-chloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazin-2-yl]-amine
A mixture of 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine (2.5 g, 9.1 mmol), 4-bromoaniline (1.6 g, 9.3 mmol), tetrahydrofuran (60 ml), and diisopropylethylamine (1.6 ml, 9.2 mmol) was stirred for 1 hour. The solution was treated with dichloromethane (200 ml), washed with saturated aqueous sodium chloride solution (50 ml), and concentrated under reduced pressure. The residual solid was treated with hydrochloric acid (1 M, 25 ml) and stirred vigorously for 30 minutes. Filtration and drying under reduced pressure provided the title compound (3.2 g, 86% yield). 1H NMR (DMSO-d6) 10.75-10.80 (m, 1H), 7.85-7.92 (m, 1H), 7.50-7.65 (m, 4H), 7.40 (m, 1H), 2.58 (s, 3H).

reactant | 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine | 9.1 mmol, 2.5 g | ClC1=NC(=NC(=N1)Cl)C1=C(C=CC(=C1)Cl)C | C10H6Cl3N3
reactant | 4-bromoaniline | 9.3 mmol, 1.6 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | diisopropylethylamine | 9.2 mmol, 1.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (4-Bromo-phenyl)-[4-chloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazin-2-yl]-amine | 3.2 g, 86% yield | BrC1=CC=C(C=C1)NC1=NC(=NC(=N1)Cl)C1=C(C=CC(=C1)Cl)C | C16H11BrCl2N4
